US07396849B2
A solution of N,N-dimethyl imidazole-1-sulfonamide (commercially available from Aldrich) (2.0 g, 11.4 mmol) in THF (50 mL) at −78° C. was treated with nBuLi (4.6 mL of a 2.5 M soln) for 1 h. Solid tert-butyl-dimethylsilanyl chloride (TBSCl) (1.72 g, 11.4 mmol) in THF (10 mL) was added at rt for 16 h. The mixture was cooled to −20° C. and treated with nBuLi (4.6 mL of a 2.5 M soln) for 1 h. 2-Naphthaldehyde (1.78 g, 1.1.4 mmol) in THF (10 mL) was added and the mixture was stirred for 3 h at rt. The mixture was washed with brine and dried over Na2SO4. The solvent was removed under vacuum and the residue was purified by chromatography on silical gel with 25% EtOAc:hexane to give 2-(tert-butyl-dimethyl-silanyl)-4-(hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide (Intermediate-I1) 2.6 g (50%).

reactant | N,N-dimethyl imidazole-1-sulfonamide | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | nBuLi | [Li]CCCC
reactant | tert-butyl-dimethylsilanyl chloride | 11.4 mmol, 1.72 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 2-Naphthaldehyde | 1.78 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(tert-butyl-dimethyl-silanyl)-4-(hydroxy-naphthalen-2-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | 2.6 g, 50% | CN(S(=O)(=O)N1C(=NC(=C1)C(C1=CC2=CC=CC=C2C=C1)O)[Si](C)(C)C(C)(C)C)C | C22H31N3O3SSi
